US04000151
In the manner given in Example 7, 5-chloro-2',6'-difluoro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone is treated with phosphorus tribromide to give 5-chloro-2',6'-difluoro-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 5-chloro-2',6'-difluoro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2F)F)C1)N1C(=NN=C1C)CO | C17H12ClF2N3O2
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 5-chloro-2',6'-difluoro-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2F)F)C1)N1C(=NN=C1C)CBr | C17H11BrClF2N3O
